US07393852B2
Preparation XVIII—7-(tert-butylamino-methyl)-6-chloro-chroman-4-one
To a stirred mixture of tert-butylamine (7.3 g, 99.78 mmol) and Et3N (10.1 g, 99.78 mmol) in anhydrous CH2Cl2 (50 mL) was added a solution of 7-bromomethyl-6-chloro-chroman-4-one (25 g, 90.71 mmol) in CH2Cl2 (150 mL) dropwise. Stirring was continued for 16 h. The mixture was concentrated, taken up in H2O, acidified with 10% HCl until pH 1, and extracted with Et2O (discarded). The acidic aqueous layer was neutralized with 5 N NaOH, and extracted with CH2Cl2 (3×). The combined extracts were dried over MgSO4, concentrated to give a yellow solid.

reactant | tert-butylamine | 99.78 mmol, 7.3 g | C(C)(C)(C)N | C4H11N
reactant | Et3N | 99.78 mmol, 10.1 g | CCN(CC)CC | C6H15N
reactant | 7-bromomethyl-6-chloro-chroman-4-one | 90.71 mmol, 25 g | BrCC1=C(C=C2C(CCOC2=C1)=O)Cl | C10H8BrClO2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | 7-(tert-butylamino-methyl)-6-chloro-chroman-4-one | C(C)(C)(C)NCC1=C(C=C2C(CCOC2=C1)=O)Cl | C14H18ClNO2
